US06326369B1
5,6-Dimethoxy-2-[4-[4-[(4-methylpiperizin-1-yl)carbonyl]phenoxy]butyl]indan-4,7-dione
A mixture of 4-[4-(5,6-dimethoxy-4,7-dioxoindan-2-yl)butoxy]benzoic acid (500 mg), 1-methylpiperazine (250 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (479 mg), 1-hydroxybenzotriazole monohydrate (383 mg), triethylamine (0.697 ml), andTHF (20 ml) was stirred at room temperature for 10 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by alumina column chromatography (ethyl acetate) and then with recrystallization from ethyl acetate-diisopropylether to yield the entitled compound (297 mg) as crystals.

reactant | 4-[4-(5,6-dimethoxy-4,7-dioxoindan-2-yl)butoxy]benzoic acid | 500 mg | COC=1C(C=2CC(CC2C(C1OC)=O)CCCCOC1=CC=C(C(=O)O)C=C1)=O | C22H24O7
reactant | 1-methylpiperazine | 250 mg | CN1CCNCC1 | C5H12N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 479 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 383 mg | O.ON1N=NC2=C1C=CC=C2
solvent | water | O | H2O
solvent | triethylamine | 0.697 ml | C(C)N(CC)CC | C6H15N
product | 5,6-Dimethoxy-2-[4-[4-[(4-methylpiperizin-1-yl)carbonyl]phenoxy]butyl]indan-4,7-dione | 297 mg | COC=1C(C=2CC(CC2C(C1OC)=O)CCCCOC1=CC=C(C=C1)C(=O)N1CCN(CC1)C)=O | C27H34N2O6
